US08034895B2
Synthesis of 2-amino-5-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (R═NEt2)
In a 50 mL round bottom flask, 67 mg of 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester was dissolved in 20 mL of anhydrous toluene to which was subsequently added 1,4-diazabicyclo[2.2.2]octane (DABCO, 32 mg), 286 μL of titanium(IV) chloride, 1.0M solution in toluene at 0° C. and 5-diethylamino-thiophene-2-carbaldehyde (52 mg). The mixture was refluxed for two hours and the solvent removed. Purification by flash chromatography (SiO2) yielded the title product as a yellow-orange solid (67%). 1H-NMR (300 MHz, [D] acetone): δ=7.96 (s, 1H), 7.23 (s, 2H), 7.21 (d, 1H, 3J=4.4 Hz), 5.93 (d, 1H, 3J=4.2 Hz), 4.27 (q, 2H, 3J=7.2 Hz), 4.17 (q, 2H, 3J=7.1 Hz), 3.43 (q, 4H, 3J=7.1 Hz), 1.35 (t, 3H, 3J=7.1 Hz), 1.24 (t, 3H, 3J=7.1 Hz), 1.21 (t, 3H, 3J=7.1 Hz). 13C-NMR (300 MHz, [D] acetone): δ=164.5, 162.3, 159.3, 146.9, 135.7, 125.5, 124.5, 102.2, 101.7, 60.7, 59.7, 47.3, 14.2, 14.1, 12.0.

reactant | 1,4-diazabicyclo[2.2.2]octane | 32 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | 5-diethylamino-thiophene-2-carbaldehyde | 52 mg | C(C)N(C1=CC=C(S1)C=O)CC | C9H13NOS
reactant | 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester | 67 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N)N | C10H14N2O4S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) chloride | 286 μL | [Ti](Cl)(Cl)(Cl)Cl
product | 2-amino-5-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | 67% | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC(=CC1)N(CC)CC)N | C19H25N3O4S2
